US06528525B1
(d) Ethyl 2-phenoxy-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate
In a similar manner to that described in Reference example 3(e), a reaction was carried out using ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate (3.33 g), which is the product of Reference example 4(c), 2-(2-bromoethoxy)tetrahydropyran (7.27 g) and potassium carbonate (6.41 g) in dimethylacetamide and the reaction mixture was treated to afford the desired compound (4.53 g) as a syrup.

reactant | ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate | 3.33 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C17H18O4
reactant | 2-(2-bromoethoxy)tetrahydropyran | 7.27 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 6.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | Ethyl 2-phenoxy-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 4.53 g | O(C1=CC=CC=C1)C(C(=O)OCC)CC1=CC=C(C=C1)OCCOC1OCCCC1 | C24H30O6
